US03989707
A mixture of 7.6 parts of 1-chloro-4,4-bis(4-fluorophenyl)butane, 4.6 parts of 1,3-dihydro-5-methyl-1-(4-piperidinyl)-2H-benzimidazol-2-one, 10 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled and poured onto water, whereupon the product is precipitated. It is filtered off, boiled in 2-propanol and treated with activated charcoal. The latter is filtered off and the product is allowed to crystallize from the filtrate, yielding 1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-5-methyl-2H-benzimidazol-2-one 2-propanolate; mp. 190 ° C.

reactant | 1-chloro-4,4-bis(4-fluorophenyl)butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 1,3-dihydro-5-methyl-1-(4-piperidinyl)-2H-benzimidazol-2-one | CC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C13H17N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-5-methyl-2H-benzimidazol-2-one 2-propanolate | CC(C)[O-].FC1=CC=C(C=C1)C(CCCN1CCC(CC1)N1C(NC2=C1C=CC(=C2)C)=O)C2=CC=C(C=C2)F | InChI=1S/C29H31F2N3O.C3H7O/c1-20-4-13-28-27(19-20)32-29(35)34(28)25-14-17-33(18-15-25)16-2-3-26(21-5-9-23(30)10-6-21)22-7-11-24(31)12-8-22;1-3(2)4/h4-13,19,25-26H,2-3,14-18H2,1H3,(H,32,35);3H,1-2H3/q;-1
